US08012980B2
3-Bromo-2,2-dimethylpropyl pivalate
3-Bromo-2,2-dimethyl-1-propanol (26.9 mL), 4-(dimethylamino)pyridine (2.67 g), and triethylamine (33.5 mL) were dissolved in toluene (250 mL) and cooled to 0° C. Pivaloyl chloride was added dropwise over 30 min (temperature rose to 15° C.) and upon completion the reaction was allowed to warm to 23° C. and stirred for 1 h. The reaction was filtered and the filtrate washed with 2N aqueous HCl (250 mL), aqueous sodium hydrogencarbonate solution (250 mL) and aqueous brine (250 mL). The organic layer was separated and the solvent evaporated to give the subtitle compound (53.0 g).

reactant | 3-Bromo-2,2-dimethyl-1-propanol | 26.9 mL | BrCC(CO)(C)C | C5H11BrO
reactant | triethylamine | 33.5 mL | C(C)N(CC)CC | C6H15N
reactant | Pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
catalyst | 4-(dimethylamino)pyridine | 2.67 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Bromo-2,2-dimethylpropyl pivalate | 53.0 g | C(C(C)(C)C)(=O)OCC(CBr)(C)C | C10H19BrO2
